US09085555B2
F. (2S,4R)-4-Azidomethyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester
To a solution of (2S,4R)-4-fluoro-4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (1.76 g, 4.98 mmol) in CH2Cl2 (30 mL) and few drops of NEt3 was stirred at RT for 10 min then methanesulfonyl chloride (0.39 mL, 5.03 mmol) was added. The reaction was stirred at RT for 30 min then poured into water and extracted with EtOAc. The organic layer was dried with Na2SO4, filtered and concentrated. The residue (2.25 g, 4.21 mmol) was dissolved in DMF (50 mL) and sodium azide (1.69 g, 26.1 mmol) was added. The solution was stirred for 16 hours at 80° C. then was cooled to RT, poured into water and extracted with EtOAc. The organic layer was dried with Na2SO4, filtered and concentrated. Purification by flash column chromatography on silica gel (c-hexane/EtOAc 1:1). MS (UPLC/MS): 379 [M+H]+; tR (HPLC conditions f): 2.44 min.

reactant | (2S,4R)-4-fluoro-4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 4.98 mmol, 1.76 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(CO)F)C(=O)OCC1=CC=CC=C1 | C18H24FNO5
reactant | NEt3 | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.03 mmol, 0.39 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 26.1 mmol, 1.69 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2S,4R)-4-Azidomethyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)CN=[N+]=[N-])C(=O)OCC1=CC=CC=C1 | C18H23FN4O4
